US04618627
A mixture of 1.4 g of 1-(3,4-dibenzyloxyphenyl)-9-ethylenedioxy-1-decene, 50 ml of acetone, and 50 mg of p-toluenesulfonic acid was stirred overnight at room temperature. After adding thereto 50 mg of sodium carbonate, the reaction mixture was concentrated under reduced pressure, and after adding thereto 50 ml of water, the product was extracted with toluene. The extract was washed with water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to provide 1.1 g of 1-(3,4-dibenzyloxyphenyl)-1-decen-9-one as an oil.

reactant | 1-(3,4-dibenzyloxyphenyl)-9-ethylenedioxy-1-decene | 1.4 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1OCC1=CC=CC=C1)C=CCCCCCCC1COCCO1 | C32H38O4
reactant | p-toluenesulfonic acid | 50 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 1-(3,4-dibenzyloxyphenyl)-1-decen-9-one | 1.1 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1OCC1=CC=CC=C1)C=CCCCCCCC(C)=O | C30H34O3
